US06897225B1
Et3N (1.7 mL) was added to an ice-cold solution of (S)proline methyl ester hydrochloride (1.31 g) and 3,5-dichlorophenylisocyanate (1,97 g) in CH2Cl2 (40 mL). The mixture was stirred for 3 hours. It was washed with water, brine, dried (MgSO4), filtered, and concentrated. Purification by chromatography (Silica gel: EtOAc/hexane: 1/3) afforded (S)-N-[N-(3,5-dichlorophenyl)carbamoyl]proline methyl ester (2.27 g). mp. 110-112° C.; MS (m/z) 339 (M++Na).

reactant | Et3N | 1.7 mL | CCN(CC)CC | C6H15N
reactant | (S)proline methyl ester hydrochloride | 1.31 g | Cl.COC([C@H]1NCCC1)=O
reactant | 3,5-dichlorophenylisocyanate | 1,97 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-[N-(3,5-dichlorophenyl)carbamoyl]proline methyl ester | 2.27 g | COC([C@H]1N(CCC1)C(NC1=CC(=CC(=C1)Cl)Cl)=O)=O | C13H14Cl2N2O3
